2188-01-01 06:56:00 Physician Resident Progress Note
Chief Complaint: respiratory distress, R PTX
   24 Hour Events:
 BRONCHOSCOPY - At [**2187-12-31**] 04:17 PM
   unable to bag pt upon receiving from ED.  Bronch to check trach
   position.
 INVASIVE VENTILATION - START [**2187-12-31**] 05:39 PM
 EKG - At [**2187-12-31**] 06:50 PM
   needed PEEP increased to 10 to keep posterior tracheal tissue from
   invaginating over the trach. FiO2 down to 70% overnight
   Got 1 L NS overnight due to NPO status
   IP to see in AM
   repeat ABG o/n improved with ventilation: 7.33/67/168/37 -> increaseed
   RR to 16, weaned FiO2 down to 40%.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-1**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-1**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 58 (47 - 84) bpm
   BP: 129/56(72) {127/45(66) - 156/73(90)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    300 mL
                                                                    685 mL
   PO:
             TF:
   IVF:
                                                                    300 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                  1,037 mL
   Urine:
   1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,850 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.33/67/168/33/6
   Ve: 6.4 L/min
   PaO2 / FiO2: 336
   Physical Examination
   GENERAL: intubated
   HEENT: pupils minimally reactive to light.
   CARDIAC: bradycardic S1/S2 present no m/g/r
   LUNG:  ventilated BS
   ABDOMEN:  distended, soft, no g/rt.
   EXT:  wwp no edema
   Scrotum: enlarged, edematous
   NEURO: moves only to painful stimuli
   Labs / Radiology
   259 K/uL
   8.8 g/dL
   195
   2.2 mg/dL
   33 mEq/L
   4.6 mEq/L
   82 mg/dL
   95 mEq/L
   133 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
   WBC
   7.4
   Hct
   27.5
   Plt
   259
   Cr
   2.2
   TCO2
   37
   Glucose
   196
   195
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   ASSESSMENT & PLAN: [**Age over 90 **] yo M with chronic respiratory failure with
   trach/PEG admitted from rehab s/p tracheostomy placement today with R
   sided PTX and difficulty with ventilation.
   # R PTX: [**Month (only) 51**] be spontaneous vs. due to vigorous ventilation at rehab.
   Chest CT and CXR confirms resolution of PTX with placement of chest
   tube.
   - chest tube to suction overnight, change to waterseal after bronch by
   IP today.
   - f/u final Chest CT read.
   .
   # Respiratory distress: s/p tracheostomy replacement today at rehab.
   Initially difficult to ventilate in the MICU. Per discussion with rehab
   pulmonologist, concern for tracheobronchmalasia noted on bronch at
   [**Hospital1 **]. Bronchoscopy performed here showed posterior invagination of
   tracheal tissue blocking trach which improved with increased PEEP. ABG
   improved from acute on chronic respiratory acidosis to chronic
   respiratory acidosis with ventilation, only requiring increase in RR
   overnight. FiO2 weaned to 50%.
   - IP consult in AM, appreciate recs
   .
   # Leukocytosis: Resolved [**Month (only) 51**] have been in setting of stress from recent
   PTX or inflammation post bronchoscopy. No fevers or other obvious
   source of infection.  No abx required.
   - can plan change urinary catheter (changed every 3-4 weeks), but
   difficult to do [**First Name8 (NamePattern2) **] [**Hospital1 **] physician due to inguinal hernia
   Will hold off on this for now
   .
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   .
   # DM: hold glipizide. RISS.
   .
   # CKD: Cre baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   .
   # Hyponatremia: Likely chronic. continue to monitor.
   .
   # Hypothyroidism: continue levoxyl
   .
   # Hypertension: continue amlodipine
   .
   # Anemia: Hct down to 27.5, may be spurious. Baseline 31.0
   - repeat Hct
   ICU Care
   Nutrition: NPO for possible procedures in AM, consider restarting TFs
   if none planned
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2187-12-31**] 05:16 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:  PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2188-01-01 10:50:00 Physician Attending Progress Note
Chief Complaint: Pneumothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]yoM s/p anoxic brain injury x 2 years; admitted yesterday in setting
   of pneumothorax.
   24 Hour Events:
   IP consulted this morning for assistance with trach management.
   Acute respiratory acidosis improved overnight; but did increase RR.
   Admitting resident spoke with pulmonologist at [**Hospital1 **] and confirmed
   his baseline mental status is that he withdraws to pain but not clearly
   purposeful.  Confirmed events of yesterday with development of
   respiratory distress prompting bronchoscopy and trach change and
   subsequent CXR demonstrated PTX.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-1**] 08:00 AM
   Other medications:
   Chlorhexidine
   Amlodipine
   Synthroid
   Lansoprazole
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-1**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 48 (47 - 84) bpm
   BP: 110/48(63) {110/38(58) - 156/73(90)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    300 mL
                                                                    760 mL
   PO:
             TF:
   IVF:
                                                                    300 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                  1,037 mL
   Urine:
   1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,850 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.33/67/168/33/6
   Ve: 6.3 L/min
   PaO2 / FiO2: 336
   Physical Examination
   Gen: Unresponsive, PERRL
   Chest: clear and symmetric
   CV: RRR
   Abd: s/nt/nd; + inguinal hernia w/ + bowel sounds
   Ext: no edema
   Labs / Radiology
   8.8 g/dL
   259 K/uL
   195
   2.2 mg/dL
   33 mEq/L
   4.6 mEq/L
   82 mg/dL
   95 mEq/L
   133 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
   WBC
   7.4
   Hct
   27.5
   Plt
   259
   Cr
   2.2
   TCO2
   37
   Glucose
   196
   195
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: resolved PTX
   Microbiology: Urine cultures: no growth to date
   Assessment and Plan
   [**Age over 90 **]yoM with h/o anoxic brain injury 2 years ago and subsequent
   ventilator dependence.
   1.  Pneumothorax:
   - Place to waterseal and repeat CXR four hours later.
   - If gets IP procedure, would put back to suction.
   2.  Chronic respiratory failure: possible tracheomalacia
   - IP evaluating today, likely bronch today to evaluate for TBM versus
   trach malposition.
   - Continue current vent settings.
   3.  Chronic urinary retention/indwelling foley:
   - chronically with continuous bladder irrigation
   - If needed can consult Urology for foley change; however, since he
   will likely return to [**Hospital1 894**] in [**1-12**] days can be performed there per
   his pulmonologist at SRH.
   4.  Anemia:  HCT from 31 to 28 today.  Likely dilutional w/ 1L fluids
   - repeat HCT today.
   5.  Leukocytosis: resolved without antibiotics; likely stress response
   from PTX.
   - no indication for antibiotics.
   ICU Care
   Nutrition: : NPO for possible bronchoscopy, restart tube feeds after
   procedure.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2187-12-31**] 05:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  Not intubated
   Communication:  Comments: Will update family.  Obtain ICU consent.
   Code status: Full code
   Disposition :ICU, case management to assess possibility fo return to
   SRH.
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, remains stable on the ventilator and pneumothorax remains
   resolved on CXR.  No air leak from chest tube.  WBC now falling and no
   fevers.
   T 37.6  P 48  BP 110/48  RR 16  Sat: 100%
   Poorly responsive
   CTA bilaterally
   Heart: s1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Assessment:
   1)       Acute on Chronic respiratory failure
   2)       Trach problem
 [**Name (NI) **] tracheomalacia
   3)       Pneumonthorax
   Plan:
   1)       IP to scope patient today
   2)       Continue chest tube on suction until after procedure then
   water seal
   3)       Monitor WBC/fever but hold off on antibiotics for now
   Time Spent: 30 minutes
   Patient is critically Ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2188-1-1**] 07:49 PM ------

2188-01-02 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bronched and IP advanced trach but said nothing to do w/ a stent given
   pt.s baseline
   CXR 4hrs post water seal did not appear to have PTX
   Foley fell out and urology came to replace it.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2188-1-1**] 05:20 PM
   Fentanyl - [**2188-1-1**] 05:20 PM
   Heparin Sodium (Prophylaxis) - [**2188-1-2**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.7
C (96.2
   HR: 72 (45 - 85) bpm
   BP: 159/70(88) {104/37(53) - 170/103(106)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,200 mL
                                                                    864 mL
   PO:
             TF:
   IVF:
                                                                  2,140 mL
                                                                    864 mL
   Blood products:
   Total out:
                                                                  2,947 mL
                                                                     15 mL
   Urine:
                                                                  2,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -747 mL
                                                                    849 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   8.8 g/dL
   195
   2.2 mg/dL
   33 mEq/L
   4.6 mEq/L
   82 mg/dL
   95 mEq/L
   133 mEq/L
   29.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
   WBC
   7.4
   Hct
   27.5
   29.1
   Plt
   259
   Cr
   2.2
   TCO2
   37
   Glucose
   196
   195
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR:
   Small right pneumothorax is not clearly visualized in this examination,
   seen
   in prior CT. Right lower lobe atelectasis has worsened. Right
   subcutaneous
   emphysema has improved. Large atelectasis in the left base is
   unchanged.
   Right basal chest tube remains in place. Tracheostomy tube is in
   standard position.
   Microbiology:  URINE CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
   Assessment and Plan
   ASSESSMENT & PLAN: [**Age over 90 **] yo M with chronic respiratory failure with
   trach/PEG admitted from rehab s/p tracheostomy placement today with R
   sided PTX and difficulty with ventilation.
   # R PTX: [**Month (only) 51**] be spontaneous vs. due to vigorous ventilation at rehab.
   Chest CT and CXR confirms resolution of PTX with placement of chest
   tube.
   - chest tube to suction overnight, change to waterseal after bronch by
   IP today.
   - f/u final Chest CT read.
   .
   # Respiratory distress: s/p tracheostomy replacement today at rehab.
   Initially difficult to ventilate in the MICU. Per discussion with rehab
   pulmonologist, concern for tracheobronchmalasia noted on bronch at
   [**Hospital1 **]. Bronchoscopy performed here showed posterior invagination of
   tracheal tissue blocking trach which improved with increased PEEP. ABG
   improved from acute on chronic respiratory acidosis to chronic
   respiratory acidosis with ventilation, only requiring increase in RR
   overnight. FiO2 weaned to 50%.
   - IP consult in AM, appreciate recs
   .
   # Leukocytosis: Resolved [**Month (only) 51**] have been in setting of stress from recent
   PTX or inflammation post bronchoscopy. No fevers or other obvious
   source of infection.  No abx required.
   - can plan change urinary catheter (changed every 3-4 weeks), but
   difficult to do [**First Name8 (NamePattern2) **] [**Hospital1 **] physician due to inguinal hernia
   Will hold off on this for now
   .
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   .
   # DM: hold glipizide. RISS.
   .
   # CKD: Cre baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   .
   # Hyponatremia: Likely chronic. continue to monitor.
   .
   # Hypothyroidism: continue levoxyl
   .
   # Hypertension: continue amlodipine
   .
   # Anemia: Hct down to 27.5, may be spurious. Baseline 31.0
   - repeat Hct
   ICU Care
   Nutrition: NPO for possible procedures in AM, consider restarting TFs
   if none planned
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2187-12-31**] 05:16 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:  PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-12-31**] 05:16 PM
   22 Gauge - [**2188-1-1**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-01-02 11:25:00 Physician Attending Progress Note
Chief Complaint: Pneumothorax
   HPI:
   [**Age over 90 **]F chronically ventilated s/p anoxic brain injury two years ago,
   admitted with pneumothorax.
   24 Hour Events:
   Bronchoscopy by IP yesterday who advanced tracheostomy; no benefit of
   intervention of for tracheomalacia.
   Chest tube placed to waterseal; CXR stable.
   Replaced foley by urology.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2188-1-1**] 05:20 PM
   Fentanyl - [**2188-1-1**] 05:20 PM
   Heparin Sodium (Prophylaxis) - [**2188-1-2**] 12:50 AM
   Other medications:
   Chlorhexidine
   Amlodipine
   MVI
   Synthroid
   Lansoprazole
   Insulin sliding scale
   ASA 325mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-2**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 50 (45 - 85) bpm
   BP: 81/28(40) {81/28(40) - 170/103(106)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,200 mL
                                                                  1,436 mL
   PO:
             TF:
   IVF:
                                                                  2,140 mL
                                                                  1,346 mL
   Blood products:
   Total out:
                                                                  2,947 mL
                                                                    295 mL
   Urine:
                                                                  2,920 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -747 mL
                                                                  1,141 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 396 (0 - 396) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No acute distress, baseline poor mental status; no
   response to commands
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Ext: minimal edema
   Labs / Radiology
   8.8 g/dL
   259 K/uL
   195
   2.2 mg/dL
   33 mEq/L
   4.6 mEq/L
   82 mg/dL
   95 mEq/L
   133 mEq/L
   29.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
   WBC
   7.4
   Hct
   27.5
   29.1
   Plt
   259
   Cr
   2.2
   TCO2
   37
   Glucose
   196
   195
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   90M s/p anoxic brain injury in [**2186**] with resultant vent dependence;
   admitted with pneumothorax.
   1.  Pneumothorax:
   - clamp chest tube, repeat CXR in 1 hour and then in AM.  If stable
   will discontinue chest tube.
   2.  Tracheomalacia: evaluated by IP, no intervention
   - no intervention needed
   3. UTI: > 100k GNR with klebseilla pan-sensitive
   - foley exchanged
   - cipro PO x 7 days
   4. Chronic respiratory failure:
   - chronic respiratory failure s/p anoxic brain injury
   - PEEP as needed for tracheomalacia
   ICU Care
   Nutrition:
   Comments: Restart tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2188-1-1**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments: Family to be updated
   Code status: Full code
   Disposition :ICU, ready for transfer back to [**Hospital1 894**]/[**Hospital1 **]
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Yesterday IP performed bronchoscopy and advanced the trach and
   diagnosed tracheomalacia.  They relate no intervention possible but
   will just maximize the length of the trach.  Also, grew Klebsiella from
   urine.
   On exam, trach in place, afebrile
   Poorly responsive
   CTA bilaterally
   S1 S2 reg
   Abd: soft NT ND
   Assessment:
   1)       Acute on Chronic Respiratory Failure
   2)       Tracheomalacia
   3)       UTI (Klebsiella)
   Plan:
   1)       Cipro for Klebs/foley changed
   2)       Transfer back to [**Hospital1 **]
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2188-1-2**] 01:18 PM ------

2188-01-04 07:14:00 Physician Resident Progress Note
Chief Complaint: Pneumothroax
   24 Hour Events:
   Chest Tube clamped, if okay on repeat CXR, can pull chest tube
   IP talked to family, told them nothing more to do regaring TBM
   Similar event with not exhaling, advanced trach and problem resolved
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-1-3**] 12:33 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-3**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-4**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 56 (48 - 71) bpm
   BP: 157/61(85) {98/38(53) - 175/70(97)} mmHg
   RR: 18 (9 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                    715 mL
                                                                    300 mL
   PO:
             TF:
                                                                    360 mL
                                                                    228 mL
   IVF:
                                                                    295 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    340 mL
   Urine:
                                                                  1,705 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Unstable Airway
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 6.9 L/min
   Physical Examination
   GENERAL: intubated
   HEENT: pupils minimally reactive to light.
   CARDIAC: bradycardic S1/S2 present no m/g/r
   LUNG:  ventilated BS
   ABDOMEN:  distended, soft, no g/rt.
   EXT:  wwp no edema
   Scrotum: enlarged, edematous
   NEURO: moves only to painful stimuli
   Labs / Radiology
   243 K/uL
   8.7 g/dL
   292 mg/dL
   2.0 mg/dL
   29 mEq/L
   3.2 mEq/L
   61 mg/dL
   102 mEq/L
   140 mEq/L
   27.8 %
   8.6 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
   WBC
   7.4
   7.3
   8.6
   Hct
   27.5
   29.1
   27.1
   27.8
   Plt
   259
   230
   243
   Cr
   2.2
   2.0
   2.0
   TCO2
   37
   Glucose
   196
   195
   288
   292
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement today with R sided PTX and difficulty
   with ventilation.
   # Respiratory distress: s/p tracheostomy replacement at rehab.
   Initially difficult to ventilate in the MICU. Per discussion with rehab
   pulmonologist, concern for tracheobronchmalasia noted on bronch at
   [**Hospital1 **]. Bronchoscopy performed here showed posterior invagination of
   tracheal tissue blocking trach which improved with increased PEEP. ABG
   improved from acute on chronic respiratory acidosis to chronic
   respiratory acidosis with ventilation, only requiring increase in RR
   overnight. FiO2 weaned to 50%. Bronched and IP advanced trach but said
   nothing to do w/ a stent given pt.s baseline. Now with continuing
   occlusion of tracheostomy due to severe TBM despite initial trach
   advancement. Trach now ~1cm from carina and meta-stable but not a good
   long term situation. IP to re-eval but little options moving forward.
   -- Increase PEEP to [**12-25**] to keep airway open
   -- Sedate with propofol to limit cough and active exhalation, can use
   paralytics if need be
   -- f/u IP recs.
# R PTX: [**Month (only) 51**] be spontaneous vs. due to vigorous ventilation at rehab vs. right p
neumothorax in the setting of recent bronchoscopy with tracheostomy change. Ches
t CT and CXR confirms resolution of PTX with placement of chest tube.
   -- Retry on clamp today and recheck CXR 4 hours post, if ok, consider
   removal of CT pending IP approval.
   .
   # Leukocytosis: Resolved [**Month (only) 51**] have been in setting of stress from recent
   PTX or inflammation post bronchoscopy.  However, UCx w/ >100,000 GNR,
   but in the setting of a chronic dwelling catheter.
   -- initate 7d of cipro.
   - urology replaced urinary catheter.
   .
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS, add Lantus today for better control. .
   # CKD: Cre baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hyponatremia: Likely chronic. continue to monitor.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2188-1-4**] 06:19 AM 120 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2188-1-1**] 04:00 PM
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2188-01-04 08:17:00 Physician Attending Progress Note
Chief Complaint: PTX, TBM
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: [**Age over 90 **]M s/p anoxic brain injury in [**2186**] with resultant vent
   dependence; admitted with pneumothorax.
   24 Hour Events:
   Seen by IP yesterday, repeat bronch deferred as no options for
   intervention for TBM
   Chest tube clamped yesterday, repeat CXR stable
   Repeat episode of apnea
 not exhaling
 improved with advancing trach
   further in (hubbed again)
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin 250 Q24 - [**2188-1-3**] 12:33 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-3**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-4**] 12:00 AM
   Other medications:
   Heparin SC
   Amlodipine
   Chlorhexidine
   MVI
   Levothyroxine
   ASA
   Pantoprazole
   ISS
   Lantus 10 daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2188-1-4**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 56 (48 - 71) bpm
   BP: 157/61(85) {98/38(53) - 175/70(97)} mmHg
   RR: 18 (9 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                    715 mL
                                                                    323 mL
   PO:
             TF:
                                                                    360 mL
                                                                    240 mL
   IVF:
                                                                    295 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    340 mL
   Urine:
                                                                  1,705 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Unstable Airway
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 6.9 L/min
   Physical Examination
   Gen: intubated, not responding to commands
   Chest: CTA anteriorly
   CV: regular, no murmurs
   Abd: soft NT/ND + BS
   Extr: warm, no edema
   Labs / Radiology
   8.7 g/dL
   243 K/uL
   292 mg/dL
   2.0 mg/dL
   29 mEq/L
   3.2 mEq/L
   61 mg/dL
   102 mEq/L
   140 mEq/L
   27.8 %
   8.6 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
   WBC
   7.4
   7.3
   8.6
   Hct
   27.5
   29.1
   27.1
   27.8
   Plt
   259
   230
   243
   Cr
   2.2
   2.0
   2.0
   TCO2
   37
   Glucose
   196
   195
   288
   292
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Micro:
   Ucx [**1-2**]: pan-S klebs
   Sputum Cx [**1-4**]:
GRAM STAIN (Final [**2188-1-4**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Imaging:
   CXR [**1-4**]:
   FINDINGS: As compared to the previous radiograph, there is little
   overall
   change. Status post tracheostomy, the tracheostomy tube is in correct
   position. Unchanged course and position of the right-sided central
   venous
   access line and the right-sided chest tube. No evidence of interval
   occurrence of focal parenchymal opacities. Unchanged size of the
   cardiac
   silhouette, unchanged retrocardiac atelectasis. The presence of a
   minimal
   left-sided pleural effusion cannot be excluded.
   Assessment and Plan
   90M s/p anoxic brain injury in [**2186**] with resultant vent dependence;
   admitted with pneumothorax.
   1.  Pneumothorax: chest tube has been clamped since yesterday AM, CXR
   yest + today stable.
   - will discontinue chest tube today (us vs. IP)
   2.  Tracheomalacia: evaluated by IP, no intervention.
   - keep trach as deep in as possible (hubbed now)
   3. UTI: > 100k GNR with klebseilla pan-sensitive
   - foley exchanged
   - on cipro PO x 7 days
   4. Chronic respiratory failure:
   - chronic respiratory failure s/p anoxic brain injury
   - continue high PEEP for tracheomalacia
   - f/up sputum culture
   ICU Care
   Nutrition:  TFs
   Glycemic Control:  lantus + ISS
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  PPI
   VAP: HOB up, chlorhexidine, mouth care
   Communication:  will update family
   Code status:  FULL
   Disposition: ICU
   Total time spent:  40 min CCT

2188-01-05 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumothorax
   24 Hour Events:
 CHEST TUBE REMOVED - At [**2188-1-4**] 03:43 PM
   Thorasic Surgery
   -- CXR stable with CT clamped x 24 hours
   -- Chest tube pulled by Thoracics at 3pm. Post CXR looks good
   -- Growing GPRs in Sputum. No identification.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-1-3**] 12:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-4**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-5**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 59 (52 - 84) bpm
   BP: 153/65(88) {107/42(57) - 175/65(89)} mmHg
   RR: 17 (17 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                    956 mL
                                                                    293 mL
   PO:
             TF:
                                                                    506 mL
                                                                    214 mL
   IVF:
                                                                    290 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    300 mL
   Urine:
                                                                  1,435 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -479 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   239 K/uL
   8.1 g/dL
   217 mg/dL
   2.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   63 mg/dL
   106 mEq/L
   143 mEq/L
   26.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   Plt
   259
   230
   243
   239
   Cr
   2.2
   2.0
   2.0
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**1-4**] post CT removal:
   Right basal chest tube removed. No pneumothorax identified.
   Tracheostomy,
   centeral venous catheter unchanged. Persistent bibasilar atelectasis,
   cannot
   exclude small left effusion. Unchanged cardiac silhouette.
   Microbiology:   GRAM STAIN (Final [**2188-1-4**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement today with R sided PTX and difficulty
   with ventilation.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach now ~1cm from carina and
   meta-stable but not a good long term situation. Right sided PTX
   improved and CXR stable since CT removed yesterday. [**Month (only) 51**] be spontaneous
   vs. due to vigorous ventilation at rehab vs. right pneumothorax in the
   setting of recent bronchoscopy with tracheostomy change.
   -- Continue PEEP at 14
   -- Keep sedatives off if possible
   -- f/u IP recs.
   -Will hold antibiotics for GPRs, likely colonizers, no other clinical
   signs of pneumonia.
   # UTI: Growing sensitive Klebsiella. On Cipro day [**5-17**].
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS, Uptitrate Lantus to 15 from 12 for better
   control now that tube feeds are back on.
   # CKD: Cr baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2188-01-05 08:18:00 Physician Attending Progress Note
Chief Complaint: chronic respiratory failure, PTX
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: [**Age over 90 **]M s/p anoxic brain injury in [**2186**] with resultant vent
   dependence; admitted with pneumothorax.
   24 Hour Events:
   Chest tube removed at 3pm, CXR stable
   Remains afebrile
   No changes to vent settings
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-1-3**] 12:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-4**] 11:47 PM
   Other medications:
   ASA 325
   Lansoprazole
   Levothyroxine
   MVI
   Amlodipine
   Chlorhexidine
   Heparin 5000 SC TID
   Cipro 250 PO daily
   ISS
   Lantus 12 units daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-5**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 59 (52 - 84) bpm
   BP: 153/65(88) {107/42(57) - 175/65(89)} mmHg
   RR: 17 (17 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                    956 mL
                                                                    298 mL
   PO:
             TF:
                                                                    506 mL
                                                                    214 mL
   IVF:
                                                                    290 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    300 mL
   Urine:
                                                                  1,435 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -479 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 359 (359 - 359) mL
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 6.9 L/min
   Physical Examination
   Gen: intubated, not following commands or opening eyes to my exam
   Chest: CTA anteriorly
   CV: regular, no murmurs
   Abd: soft + BS
   Extr: warm, no edema
   Labs / Radiology
   8.1 g/dL
   239 K/uL
   217 mg/dL
   2.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   63 mg/dL
   106 mEq/L
   143 mEq/L
   26.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   Plt
   259
   230
   243
   239
   Cr
   2.2
   2.0
   2.0
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Micro:
   [**1-4**] sputum:
   GRAM STAIN (Final [**2188-1-4**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      SMEAR REVIEWED; RESULTS CONFIRMED.
   RESPIRATORY CULTURE (Preliminary):
      UNABLE TO R/O OTHER PATHOGENS DUE TO OVERGROWTH OF SWARMING PROTEUS
      SPP..
      Unable to definitively determine the presence or absence of commensal
      respiratory flora.
      PROTEUS MIRABILIS.    SPARSE GROWTH.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    RARE GROWTH.
   Studies:
   CXR [**1-4**] 5:30 pm:
   FINDINGS: As compared to the previous radiograph, there is little
   overall
   change. Unchanged position of tracheostomy tube and right-sided central
   venous access line. The right-sided chest tube has been removed in the
   interval, there is no evidence of pneumothorax. The cardiac silhouette
   is
   unchanged in size, the retrocardiac atelectasis has minimally increased
   in
   extent. In the lung parenchyma, there is no evidence of newly appeared
   focal
   parenchymal opacities suggesting pneumonia.
   Assessment and Plan
   90M s/p anoxic brain injury in [**2186**] with resultant vent dependence;
   admitted with pneumothorax.
   1.  Pneumothorax: resolved, chest tube removed  yesterday, evening CXR
   yesterday without PTX.
   2.  Tracheomalacia: intermittent occlusion of trach with redundant
   tissue [**2-12**] severe TBM; was evaluated by IP, no intervention.
   - keep trach as deep in as possible
   3. UTI: > 100k GNR with klebseilla pan-sensitive
   - foley exchanged
   - on cipro PO x 7 days (Day [**5-17**] today)
   4. Chronic respiratory failure: chronic respiratory failure s/p anoxic
   brain injury.  Afebrile and NL WBCs, sputum cx sent in a setting of
   trach occlusion, now growing proteus.
   - continue high PEEP for tracheomalacia
   - f/up proteus sensis from sputum, no additional Abx for now
   ICU Care
   Nutrition:  TFs
   Glycemic Control:  lantus + ISS
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  PPI
   VAP: chlorhexidine, HOB elevation, mouth care
   Communication: need to t/b with CM and family re: dispo
   Code status:  FULL
   Disposition : ICU
   Total time spent:  35 min CCT

2188-01-06 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CM says not going back to rehab this weekend. "Absolutely not".
   Growing proteus in sputum but held off on abx given no other signs of
   pna.
   Family wants PEEP down by 1/day, attending ok with this crazy plan so
   dropped from 15 to 14.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-1-3**] 12:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-6**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-6**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (50 - 86) bpm
   BP: 159/66(88) {101/39(53) - 159/73(141)} mmHg
   RR: 18 (5 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    637 mL
                                                                    290 mL
   PO:
                  TF:
                                                                    454 mL
                                                                    240 mL
   IVF:
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    540 mL
   Urine:
                                                                  1,290 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 413 (359 - 413) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   305 K/uL
   8.3 g/dL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   27.5 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Microbiology:     PROTEUS MIRABILIS.    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    RARE GROWTH.
   Assessment and Plan
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement today with R sided PTX and difficulty
   with ventilation.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach now ~1cm from carina and
   meta-stable but not a good long term situation. Right sided PTX
   improved and CXR stable since CT removed yesterday. [**Month (only) 51**] be spontaneous
   vs. due to vigorous ventilation at rehab vs. right pneumothorax in the
   setting of recent bronchoscopy with tracheostomy change.
   -- Continue PEEP at 14, but decrease to 13 per insistance of family
   -- Keep sedatives off if possible
   -- f/u IP recs.
   -Will hold antibiotics for GPRs, likely colonizers, no other clinical
   signs of pneumonia.
   # UTI: Growing sensitive Klebsiella. On Cipro day [**6-17**].
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS, cont lantus at 15, and uptitrate as needed.
   # CKD: Cr baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-01-06 11:45:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable. CT d/c.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-1-3**] 12:33 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-6**] 08:00 AM
   Other medications:
   reviewed, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-6**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (50 - 67) bpm
   BP: 149/61(82) {103/40(56) - 159/73(91)} mmHg
   RR: 20 (5 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    637 mL
                                                                    490 mL
   PO:
                  TF:
                                                                    454 mL
                                                                    360 mL
   IVF:
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    640 mL
   Urine:
                                                                  1,290 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 413 (413 - 413) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   305 K/uL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   27.5 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): continue
   ventilatory support throught Trach tube. Continue high PEEP support.
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   resolved, CT removed.
 UTI: continue ciprofloxacin.
Access: place peripheral, d/c central line
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
   note as outlined above, including assessment and plan. No major change
   over the past day, remains on mechanical ventilation and high levels of
   PEEP. Will [**Hospital 12376**] rehab/dispo options after the weekend.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2188-1-6**] 14:36 ------

2188-01-07 10:57:00 Physician Attending Progress Note
Chief Complaint: [**Age over 90 **] yo man with history of anoxic brain injury and
   chronic respiratory failure on ventilator at [**Hospital1 **].  Admitted
   [**2187-12-31**] with ?spontaneous right sided pneumothorax with placement and
   then removal of chest tube.  Severe tracheobronchomalacia with
   granulation tissue causing intermittent occlusion of tracheostomy.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -after patient's family repositioned patient's head with lower tiday
   volumes.  PEEP increased from 14 to 15.
   -reportedly patient's family has not paid [**Hospital1 **] for past year,
   [**Hospital1 **] to send case manager to evaluate patient today
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-6**] 04:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-7**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 53 (50 - 77) bpm
   BP: 119/48(65) {116/36(55) - 198/82(110)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                    923 mL
                                                                    167 mL
   PO:
                  TF:
                                                                    663 mL
                                                                    117 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    420 mL
   Urine:
                                                                  1,825 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -902 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 397) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 36 cmH2O
   Plateau: 30 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   305 K/uL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Microbiology: urine culture: klebsiella (pan sensitive)
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   -currently has adjustable [**Last Name (un) 1841**] but issues with tracheostomy slipping
   in and out.  Will discuss with IP if we can transition to
   non-adjustable extra long trach
UTI: with pan-sensitive Klebsiella, on ciprofloxacin
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   -resolved, chest tube removed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT: on heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition : ready for transfer back to [**Hospital1 **] but may have
   insurance issues.
   Total time spent:  45 min

2188-01-08 07:14:00 Physician Resident Progress Note
Chief Complaint: Pneumothorax
   24 Hour Events:
   -- IP placed new Trach which should move less - [**Last Name (un) **] 12 cm
   -- Family requested Lantus to be d/cd
   -- Hyperglycemic due to tubefeeding error. Sugars improved with TFs
   off.
   -- [**Hospital1 189**] had bed but refused transfer based on financial concerns.
   CM says that patient will be transferred at 10 am on [**1-8**] REGARDLESS
   of family's wishes
   -- Family reported [**Hospital1 19**] to Dept of Public Health because they feel
   patient is being transferred to early, the family is being kept away
   from the patient too frequently, and family's wishes to take the
   patient home are not being respected
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Does not appear to be in pain
   Flowsheet Data as of  [**2188-1-8**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 59 (45 - 83) bpm
   BP: 148/68(86) {107/44(59) - 185/85(106)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                    407 mL
                  PO:
                  TF:
                                                                    117 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    600 mL
   Urine:
                                                                  1,100 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -693 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   8.3 g/dL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement today with R sided PTX and difficulty
   with ventilation.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm yesterday which should move around less than the previous model.
   Right sided PTX improved and CXR stable since CT removed. [**Month (only) 51**] be
   spontaneous vs. due to vigorous ventilation at rehab vs. right
   pneumothorax in the setting of recent bronchoscopy with tracheostomy
   change.
   -- Continue to wean PEEP as tolerated
   -- Keep sedatives off if possible
   # UTI: Growing sensitive Klebsiella. On Cipro day [**7-17**].
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS, lantus stopped per family request
   # CKD: Cr baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:  hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: awaiting placement

2188-01-08 07:21:00 Physician Attending Progress Note
Chief Complaint: [**Age over 90 **] yo man with history of anoxic brain injury and
   chronic respiratory failure on ventilator at [**Hospital1 **].  Admitted
   [**2187-12-31**] with ?spontaneous right sided pneumothorax with placement and
   then removal of chest tube.  Severe tracheobronchomalacia with
   granulation tissue causing intermittent occlusion of tracheostomy.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -IP changed adjustable [**Last Name (un) 1841**] to size 8 extra long 120mm [**First Name9 (NamePattern2) 12405**]
   [**Last Name (un) 1841**].  No issues with low tidal volumes overnight
   -accepted for transfer to [**Hospital1 189**] today
   -lantus discontinued as per family request, only on regular insulin
   sliding scale
   -patient
s family reported [**Hospital1 19**] to Department of Public Health given
   dissatisfaction with his care here
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-8**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 59 (45 - 83) bpm
   BP: 117/50(66) {107/44(59) - 185/85(106)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                    407 mL
                  PO:
                  TF:
                                                                    117 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    600 mL
   Urine:
                                                                  1,100 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -693 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 5.5 L/min
   Physical Examination
   Trach in place.  No spontaneous movement of extremities.  PERRL.
   Lungs clear
   Regular rate and rhythm
   +BS, soft, nontender
   Mild anasarca
   R subclavian TLC.  No peripheral IV
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   305 K/uL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   -stable overnight with extra [**First Name8 (NamePattern2) 282**] [**Last Name (un) 1841**]
UTI: with pan-sensitive Klebsiella, on ciprofloxacin for total 7 days
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   -resolved, chest tube removed
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2188-1-3**] 07:00 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: lansoprazole
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments: Had long meeting with family. Family
   unrealistic about his prognosis
   Code status: Full code
   Disposition : Not accepted by [**Hospital1 189**].  Continue to receive care in
   MICU
   Total time spent: 60 min

2188-01-09 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2188-1-8**] 11:23 AM
   [**Hospital1 189**] refused patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-8**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Does not appear to be in pain
   Flowsheet Data as of  [**2188-1-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 65 (44 - 75) bpm
   BP: 156/63(85) {99/37(54) - 156/84(98)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    450 mL
                                                                    230 mL
   PO:
                  TF:
                                                                    300 mL
                                                                    150 mL
   IVF:
   Blood products:
   Total out:
                                                                    830 mL
                                                                    225 mL
   Urine:
                                                                    830 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   8.3 g/dL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HERNIA, INGUINAL / FEMORAL
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement with R sided PTX and difficulty with
   ventilation now s/p chest tube placement and removal, currently
   awaiting LTAC bed.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm yesterday which should move around less than the previous model.
   Right sided PTX improved and CXR stable since CT removed. [**Month (only) 51**] be
   spontaneous vs. due to vigorous ventilation at rehab vs. right
   pneumothorax in the setting of recent bronchoscopy with tracheostomy
   change.
   -- Continue to wean PEEP as tolerated
   -- Attempt pressure support trial today
   -- Keep sedatives off if possible
   # Family dynamics: family reporting hospital to DPH. Family has not
   been able to pay [**Doctor First Name **] at [**Hospital1 **]. Family has been touching patient
   causing worsening respiratory status and dictating care in terms of
   PEEP and long acting insulins.
   - Ethics consult requested
   # UTI: Growing sensitive Klebsiella. Completed cipro 7 day course on
   [**1-9**].
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS, lantus stopped per family request but will
   restart Lantus 10 after requiring 16 units yesterday while ethics
   consult is PENDING
   # CKD: Cr baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:  hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Awaiting placement

2188-01-09 07:29:00 Physician Attending Progress Note
Chief Complaint: [**Age over 90 **] yo man with history of Parkinson
s, anoxic brain
   injury and chronic respiratory failure on ventilator at [**Hospital1 **].
   Admitted [**2187-12-31**] with ?spontaneous right sided pneumothorax with
   placement and then removal of chest tube. Severe tracheobronchomalacia
   with granulation tissue causing intermittent occlusion of tracheostomy,
   on [**1-7**] adjustable [**Last Name (un) 1841**] changed to size 8 120mm extra [**First Name8 (NamePattern2) 282**] [**Last Name (un) 1841**].
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -right subclavian TLC removed
   -due to financial issues patient was not accepted by [**Hospital1 189**]
   -positional cuff leak noted when patient not lying on his right side
   -24hr regular insulin requirement 16U, FSBG 170-318
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin 250mg daily finished yesterday
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-8**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-9**] 12:00 AM
   Other medications:
   Amlodipine 2.5mg TIW
   ASA 325mg daily
   Levothyroxine 50mcg daily
   Lasoprazole 30mg dialy
   Heparin 5000U SQ TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-9**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 65 (44 - 75) bpm
   BP: 156/63(85) {99/37(54) - 156/84(98)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    450 mL
                                                                    230 mL
   PO:
                  TF:
                                                                    300 mL
                                                                    150 mL
   IVF:
   Blood products:
   Total out:
                                                                    830 mL
                                                                    225 mL
   Urine:
                                                                    830 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Trach in place.  Opens eyes spontaneously but no
   meaningful response to pain or loud voice.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach in place
   Peripheral Vascular: no peripheral edema
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present.  Testicular mass
   with bowel sounds auscultated over testicular mass
   Extremities: No peripheral edema.  Contractures in place.
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   305 K/uL
   93 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   Plt
   259
   230
   243
   239
   305
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Parkinson
s and history of altered mental status
   -little hope of meaningful neurologic recovery
   Pneumothorax now resolved
   Chronic respiratory failure
   -according to the family was able to be off the ventilator up to 12
   hours at a time
   -try CPAP 15 today
   -no plans to change tracheostomy.  Does have intermittent leak but not
   significant and improved with repositioning
   -continues to need high PEEP for tracheobronchomalacia
   UTI sp 7 days of ciprofloxacin
   Will need ethics consult
   Inguinal hernia, does not appear to be incarcerated
   ICU Care
   Nutrition: TF on goal
   Glycemic Control:  Will start lantus 10U daily, with RISS coverage
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: heparin 5000U SQ TID
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code per family. Would benefit from ethics consult.
   Disposition :ICU.  [**Hospital1 1030**] will not accept transfer.
   Total time spent: 45 min

2188-01-10 06:59:00 Physician Resident Progress Note
Chief Complaint: s/p pneumothrorax
   24 Hour Events:
   - put on pressure support in a.m. and tolerated it throughout day
   - spoke to [**First Name8 (NamePattern2) 792**] [**Last Name (NamePattern1) 12437**] of ethics, she wants to set up a family meeting
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-9**] 08:53 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-10**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal. Does not appear to be in pain.
   Flowsheet Data as of  [**2188-1-10**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 65 (46 - 66) bpm
   BP: 161/68(89) {116/39(58) - 161/69(89)} mmHg
   RR: 19 (6 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    910 mL
                  PO:
                  TF:
                                                                    600 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    380 mL
   Urine:
                                                                  1,295 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 397 (287 - 397) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   9.3 g/dL
   138 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.5 mEq/L
   71 mg/dL
   112 mEq/L
   150 mEq/L
   29.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   8.8
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   Plt
   259
   230
   243
   [**Telephone/Fax (3) 12438**]
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   2.3
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   138
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HERNIA, INGUINAL / FEMORAL
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement with R sided PTX and difficulty with
   ventilation now s/p chest tube placement and removal, currently
   awaiting LTAC bed.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm yesterday which should move around less than the previous model.
   Right sided PTX improved and CXR stable since CT removed. [**Month (only) 51**] be
   spontaneous vs. due to vigorous ventilation at rehab vs. right
   pneumothorax in the setting of recent bronchoscopy with tracheostomy
   change.
   -- Continue pressure support trial
   -- Keep sedatives off if possible
   # Family dynamics: family reporting hospital to DPH. Family has not
   been able to pay [**Doctor First Name **] at [**Hospital1 **]. Family has been touching patient
   causing worsening respiratory status and dictating care in terms of
   PEEP and long acting insulins.
   -- Ethics consult requested and plan for Family meeting next week when
   holiday coverage ends and Attending will not change as frequently
   # Hypernatremia: Increase OG free water flushes from 50 cc > 150 cc Q6H
   and recheck Na
   # UTI: Growing sensitive Klebsiella. Completed cipro 7 day course on
   [**1-9**].
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS with lantus 10
   # CKD: Cr baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition:  Tubefeeds
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Awaiting placement

2188-01-10 10:59:00 Physician Attending Progress Note
Chief Complaint: Chronic vent in hospital with little evidence of
   change in alertness
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Copious secretions, white and thick. Requiring hourly suctioning but
   improves post asp of thick secretions.
   Had trial of PS [**10-25**] and did well most of the day. Continuing to vent
   at these settings
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-10**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-10**] 08:48 AM
   Other medications:
   asa, lanzoprazole, levothyroxine, MVI, amlodipine, sub-q hep, RISS,
   lantus 10U
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-10**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 71 (54 - 77) bpm
   BP: 135/45(66) {116/39(58) - 189/106(115)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    910 mL
                                                                    600 mL
   PO:
                  TF:
                                                                    600 mL
                                                                    150 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                      0 mL
   Urine:
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                    600 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (287 - 397) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): Not oriented,
   Movement: No spontaneous movement, Sedated, Tone: Decreased
   Labs / Radiology
   9.3 g/dL
   371 K/uL
   138 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.5 mEq/L
   71 mg/dL
   112 mEq/L
   150 mEq/L
   29.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  12:04 AM
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   8.8
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   Plt
   259
   230
   243
   [**Telephone/Fax (3) 12438**]
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   2.3
   TCO2
   37
   Glucose
   196
   195
   288
   292
   217
   93
   138
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HERNIA, INGUINAL / FEMORAL
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
   Parkinson
s and history of altered mental status
   -little hope of meaningful neurologic recovery
   Pneumothorax now resolved
   Chronic respiratory failure
   -according to the family was able to be off the ventilator up to 12
   hours at a time
   -Did well on [**10-25**] PS
   -no plans to change tracheostomy.  Does have intermittent leak but not
   significant and improved with repositioning
   -continues to need high PEEP for tracheobronchomalacia
   UTI sp 7 days of ciprofloxacin
   Ethics has seen patient/Family Meting on Monday
   Inguinal hernia, does not appear to be incarcerated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-01-11 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**Age over 90 **] yo M with chronic respiratory failure with
   trach/PEG admitted from rehab s/p tracheostomy placement with R sided
   PTX and difficulty with ventilation now s/p chest tube placement and
   removal, currently awaiting LTAC bed.
   24 Hour Events:
   [**1-9**]
   - Hypernatremic to 150 on AMLs. Increased FW flushes.
   - Continued on pressure support [**10-24**]
   - Spoke with family - requested fleet's enema, restarting aranesp and
   considering glipizide.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-10**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-11**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-11**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 61 (55 - 84) bpm
   BP: 179/75(100) {112/45(62) - 189/106(115)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,476 mL
                                                                    594 mL
   PO:
                  TF:
                                                                    576 mL
                                                                    294 mL
   IVF:
   Blood products:
   Total out:
                                                                    730 mL
                                                                    250 mL
   Urine:
                                                                    730 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 155 (155 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 2.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   371 K/uL
   9.3 g/dL
   138 mg/dL
   2.4 mg/dL
   31 mEq/L
   4.5 mEq/L
   71 mg/dL
   112 mEq/L
   147 mEq/L
   29.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   8.8
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   Plt
   259
   230
   243
   [**Telephone/Fax (3) 12438**]
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   Glucose
   196
   195
   288
   292
   217
   93
   138
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement with R sided PTX and difficulty with
   ventilation now s/p chest tube placement and removal, currently
   awaiting LTAC bed.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm yesterday which should move around less than the previous model.
   Right sided PTX improved and CXR stable since CT removed. [**Month (only) 51**] be
   spontaneous vs. due to vigorous ventilation at rehab vs. right
   pneumothorax in the setting of recent bronchoscopy with tracheostomy
   change.
   -- Continue pressure support trial
   -- Keep sedatives off if possible
   # Family dynamics: family reporting hospital to DPH. Family has not
   been able to pay [**Doctor First Name **] at [**Hospital1 **]. Family has been touching patient
   causing worsening respiratory status and dictating care in terms of
   PEEP and long acting insulins.
   -- Ethics consult requested and plan for Family meeting next week when
   holiday coverage ends and Attending will not change as frequently
   # Hypernatremia: Increase OG free water flushes from 50 cc > 150 cc Q6H
   and recheck Na
   # UTI: Growing sensitive Klebsiella. Completed cipro 7 day course on
   [**1-8**].
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: hold glipizide. RISS with lantus 10
   # CKD: Cr baseline 2.0.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   # Hypothyroidism: continue levoxyl
   # Hypertension: continue amlodipine
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-01-11 07:58:00 Physician Attending Progress Note
Chief Complaint: Pneumothorax
   HPI:
    See H&P for details.
   24 Hour Events:
 Na elevated, increased free water flushes
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole
   Heparin Sodium  sc
   Other medications:
   Lantus, RISS, synthroid, MVI, amlodipine, psylium, albuterol prn
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-11**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 61 (55 - 84) bpm
   BP: 179/75(100) {112/45(62) - 189/106(115)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,476 mL
                                                                    594 mL
   PO:
                  TF:
                                                                    576 mL
                                                                    294 mL
   IVF:
   Blood products:
   Total out:
                                                                    730 mL
                                                                    250 mL
   Urine:
                                                                    730 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 155 (155 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 2.9 L/min
   Physical Examination
   General Appearance: No acute distress, positioned in a chair
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy, MMM
   Cardiovascular: RRR, S1, S2
   Extremeties/Peripheral Vascular: Warm, 2+ DP bilat
   Respiratory / Chest: CTAB
   Abdominal: Soft, G-Tube, ND, NT, +BS
   Skin:  No rashes
   Neurologic: Non-responsive, blinks to threat, opens eyes spontaneously
   Labs / Radiology
   9.3 g/dL
   371 K/uL
   138 mg/dL
   2.4 mg/dL
   31 mEq/L
   4.5 mEq/L
   71 mg/dL
   112 mEq/L
   147 mEq/L
   29.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  03:13 AM
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
   WBC
   7.4
   7.3
   8.6
   8.8
   9.3
   8.8
   Hct
   27.5
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   Plt
   259
   230
   243
   [**Telephone/Fax (3) 12438**]
   Cr
   2.2
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   Glucose
   196
   195
   288
   292
   217
   93
   138
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 Now has a
   longer trach, has been doing well on PS [**10-24**]
   - Consider trial of decreasing PS, following abg
 Hypernatremia, decreased UOP
 Na 150 yesterday, improved with
   increased free water flushes/repletion offree water deficit.
 ARF
   Cr slightly up. Suspected intravascular dry and received 500 cc NS.
   UOP improved after flushing foley
   Continue to follow
 ALTERED MENTAL STATUS
 Secondary to anoxic brain injury
   At baseline
 DM
 On lantus and sliding scale, will avoid oral hypoglycemics given
   CRI
 Constipation
 Enemas and fiber, titrate to BM
   ICU Care
   Nutrition: TF and free water flushes
   Glycemic Control:  lantus and sliding scale
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  With family
   Code status: Full Code
   Critically ill
   Disposition : MICU for now pending rehab
   Cotinued c,soe communciation with family, family meeting early next
   week.
   Total time spent: 30 min

2188-01-12 07:17:00 Physician Resident Progress Note
Chief Complaint: -1 p.m. sodium checked and was 148, free H20 flushes
   increased from 150cc --> 200cc q4hrs (900cc total per day to 1200cc per
   day)- per family's request have changed lantus to qhs, also have
   changed to 8 units.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-12**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 60 (56 - 85) bpm
   BP: 151/68(89) {96/41(54) - 197/86(111)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 100 kg
   Height: 72 Inch
                  Total In:
                                                                  2,024 mL
                                                                    576 mL
   PO:
                  TF:
                                                                    744 mL
                                                                    176 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    620 mL
   Urine:
                                                                  2,210 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 284 (284 - 398) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   9.3 g/dL
   138 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.5 mEq/L
   71 mg/dL
   112 mEq/L
   147 mEq/L
   29.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
                             [**2188-1-12**]  03:43 AM
   WBC
   7.3
   8.6
   8.8
   9.3
   8.8
   Hct
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   Plt
   230
   243
   239
   305
   371
   Cr
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   2.3
   Glucose
   195
   288
   292
   217
   93
   138
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement with R sided PTX and difficulty with
   ventilation now s/p chest tube placement and removal, currently
   awaiting LTAC bed.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm yesterday which should move around less than the previous model.
   Right sided PTX improved and CXR stable since CT removed. [**Month (only) 51**] be
   spontaneous vs. due to vigorous ventilation at rehab vs. right
   pneumothorax in the setting of recent bronchoscopy with tracheostomy
   change.
   -- Continue pressure support trial
   -- Keep sedatives off if possible
   -- attempt slightly reducing pressure support
   # Family dynamics: family reporting hospital to DPH. Family has not
   been able to pay [**Doctor First Name **] at [**Hospital1 **]. Family has been touching patient
   causing worsening respiratory status and dictating care in terms of
   PEEP and long acting insulins.
   -- Ethics consult requested and plan for Family meeting next week when
   holiday coverage ends and Attending will not change as frequently
   # Hypernatremia: Increase OG free water flushes now 200cc q4h with mild
   imimprovement.  Will increase to 250cc.
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: RISS with lantus 8 per family
s request for change
   # CKD: Cr baseline 2.0.  Currently 2.3 w/ oliguria.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2188-1-12**] 06:00 AM 120 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-01-12 08:05:00 Physician Attending Progress Note
Chief Complaint: Pneumothorax, respiratory failure
   HPI:
   See H&P for full details.  In brief a [**Age over 90 **]M w/anoxic brain injury and
   tracheobronchomalacia who developed a pneumothorax.
   24 Hour Events:
 Increased free water
 PEEP decreased from 15->14
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-1-12**] 12:00 AM
   Other medications:
   Artificial tears, ASA, lansoprazole, synthroid, amlodipine, RISS,
   lantus, psyllium, free water flushes, senna
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-12**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 60 (56 - 85) bpm
   BP: 151/68(89) {96/41(54) - 172/86(103)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 100 kg
   Height: 72 Inch
                  Total In:
                                                                  2,024 mL
                                                                    670 mL
   PO:
                  TF:
                                                                    744 mL
                                                                    270 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    620 mL
   Urine:
                                                                  2,210 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (284 - 454) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.7 L/min
   Physical Examination
   General Appearance:  Elderly M in No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: Irreg Irreg, S1, S2
   Peripheral Vascular: Warm
   Respiratory / Chest: Coarse, good air movement bilaterally
   Abdominal: Soft, Non-tender, ND, +BS
   Skin:  Warm
   Neurologic: Non-responsive, blinks to threat
   Labs / Radiology
   9.3 g/dL
   371 K/uL
   138 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.5 mEq/L
   71 mg/dL
   112 mEq/L
   147 mEq/L
   29.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2188-1-1**]  06:00 AM
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
                             [**2188-1-12**]  03:43 AM
   WBC
   7.3
   8.6
   8.8
   9.3
   8.8
   Hct
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   Plt
   230
   243
   239
   305
   371
   Cr
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   2.3
   Glucose
   195
   288
   292
   217
   93
   138
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE
 attributed to tracheobronchomalacia, with recent
   decompensation due to pneumothorax.  Continue mechanical ventilation.
   Hope to work towards daytime trach collar trials, and nocturnal
   ventilation (recent baseline).
   TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1841**]
   placement
   - Gradually wean PS and PEEP as tolerated
   PNEUMOTHORAX (PROCEDURE RELATED, BAROTRAUMA)
   - Stable now, chest tubes out
   HYPERNATREMIA -- Increase free water boluses
   CONSTIPATION
 Senna, fiber, enema as needed
   ALTERED MENTAL STATUS
 attributed to anoxic brain injury, stable.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Lantus+RISS
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: Heparin sc
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : MICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-01-13 08:11:00 Physician Attending Progress Note
Chief Complaint: Pneumothorax
   HPI:
   See H&P for full details.  In brief, a [**Age over 90 **]M w/anoxic brain injury s/p
   trach and peg who had a pneumothorax, now resolved.
   24 Hour Events:
PEEP decreased to 12
BM this AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis)
   Other medications:
   Artificial tears, synthroid, ASA, lansoprazole, amlodipine,
   chlorhexidine, RISS, lantus, Metamucil, free water flushes, lactulose,
   colace
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-13**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 60 (55 - 77) bpm
   BP: 98/39(53) {98/39(53) - 161/73(94)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 100 kg
   Height: 72 Inch
                  Total In:
                                                                  2,460 mL
                                                                    700 mL
   PO:
                  TF:
                                                                    750 mL
                                                                    240 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    480 mL
   Urine:
                                                                  1,200 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,260 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 404 (335 - 404) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No acute distress, laying quietly in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry MMM
   Cardiovascular: RRR, S1, S2, no RMG
   Extremities/Peripheral Vascular: Warm, trace LE edema, palpable DP,
   radial pulses
   Respiratory / Chest: bronchial
   Abdominal: Soft, Non-tender, Bowel sounds present, large inguinal
   hernia
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful
   Labs / Radiology
   8.6 g/dL
   355 K/uL
   173 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.6 mEq/L
   69 mg/dL
   106 mEq/L
   143 mEq/L
   28.6 %
   9.7 K/uL
        [image002.jpg]
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
                             [**2188-1-12**]  03:43 AM
                             [**2188-1-13**]  03:18 AM
   WBC
   7.3
   8.6
   8.8
   9.3
   8.8
   9.7
   Hct
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   28.6
   Plt
   230
   243
   239
   [**Telephone/Fax (3) 12488**]
   Cr
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   2.3
   2.2
   Glucose
   288
   292
   217
   93
   138
   173
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPERNATREMIA
 Improved with increased free water flushes
   - Continue current free water boluses, recheck in AM
 CONSTIPATION
 Finally had a BM with increased bowel regimen
   - Continue bowel regimen for goal 1 BM daily
 ANOXIC BRAIN INJURY
 Minimally responsive, stable
 HERNIA, INGUINAL / FEMORAL - Stable
 TRACHEOBRONCHOMALACIA
 Doing well on current vent settings with long
   trach
   - Will decrease PEEP to 10, continue current PS
 PNEUMOTHORAX - Resolved
   ICU Care
   Nutrition: TFs
   Glycemic Control:  On lantus and RISS
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  With family
   Code status: Full
   Disposition : MICU for now
   Total time spent: 30 min

2188-01-13 11:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - had BM overnight
   - decreased PEEP to 12
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-13**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-13**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-13**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 60 (55 - 77) bpm
   BP: 120/43(61) {98/37(53) - 161/73(94)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 100 kg
   Height: 72 Inch
                  Total In:
                                                                  2,460 mL
                                                                  1,050 mL
   PO:
                  TF:
                                                                    750 mL
                                                                    240 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    900 mL
   Urine:
                                                                  1,200 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,260 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (335 - 404) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.8 L/min
   Physical Examination
   Gen: elderly male, NAD, not responding to voice or sternal rub
   CV: regular
   Lungs: diminished bilaterally, no rhonci
   Abd: obese, slightly distending.  Normoactive BS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   355 K/uL
   8.6 g/dL
   173 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.6 mEq/L
   69 mg/dL
   106 mEq/L
   143 mEq/L
   28.6 %
   9.7 K/uL
        [image002.jpg]
                            [**2188-1-1**]  04:47 PM
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
                             [**2188-1-12**]  03:43 AM
                             [**2188-1-13**]  03:18 AM
   WBC
   7.3
   8.6
   8.8
   9.3
   8.8
   9.7
   Hct
   29.1
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   28.6
   Plt
   230
   243
   239
   [**Telephone/Fax (3) 12488**]
   Cr
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   2.3
   2.2
   Glucose
   288
   292
   217
   93
   138
   173
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement with R sided PTX and difficulty with
   ventilation now s/p chest tube placement and removal, currently
   awaiting LTAC bed.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm yesterday which should move around less than the previous model.
   Right sided PTX improved and CXR stable since CT removed. [**Month (only) 51**] be
   spontaneous vs. due to vigorous ventilation at rehab vs. right
   pneumothorax in the setting of recent bronchoscopy with tracheostomy
   change.
   -- Continue pressure support trial, attempt PEEP to 14
   -- Keep sedatives off if possible
   -- attempt slightly reducing pressure support
   # Family dynamics: family reporting hospital to DPH. Family has not
   been able to pay [**Doctor First Name **] at [**Hospital1 **]. Family has been touching patient
   causing worsening respiratory status and dictating care in terms of
   PEEP and long acting insulins.
   -- Ethics consult requested and plan for Family meeting next week when
   holiday coverage ends and Attending will not change as frequently
   # Hypernatremia: Increase OG free water flushes now 250cc q4h.
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: RISS with lantus 8u qhs per family
s request for change
   # CKD: Cr baseline 2.0.  Currently 2.3 w/ oliguria.
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-01-14 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PEEP decreased to 10; patient tolerated well
   - family wanted lantus decreased to 6 units
   - had large blood mucous secretion from mouth.  trach was not
   suctioning anything.  possibly from around trach cuff though not
   clear.  cleared later on during the day
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-1-13**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2188-1-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-14**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 60 (56 - 72) bpm
   BP: 152/62(80) {91/32(47) - 154/70(89)} mmHg
   RR: 17 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 100 kg
   Height: 72 Inch
                  Total In:
                                                                  2,130 mL
                                                                    624 mL
   PO:
                  TF:
                                                                    720 mL
                                                                    164 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    470 mL
   Urine:
                                                                  1,360 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    770 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 397 (386 - 397) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5.9 L/min
   Physical Examination
   Gen: elderly male, NAD, not responding to voice or sternal rub
   CV: regular
   Lungs: diminished bilaterally, no rhonci
   Abd: obese, slightly distending.  Normoactive BS
   Peripheral Vascular: 2+ DP bilaterally
   Neurologic: no response to voice; no response to sternal rub.
   withdraws to painful stimuli at hand
   Labs / Radiology
   368 K/uL
   8.9 g/dL
   126 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.8 mEq/L
   65 mg/dL
   105 mEq/L
   142 mEq/L
   28.0 %
   11.6 K/uL
        [image002.jpg]
                            [**2188-1-3**]  04:29 AM
                            [**2188-1-4**]  03:54 AM
                            [**2188-1-5**]  03:15 AM
                            [**2188-1-6**]  03:56 AM
                            [**2188-1-7**]  03:53 AM
                            [**2188-1-10**]  04:49 AM
                             [**2188-1-11**]  02:52 AM
                             [**2188-1-12**]  03:43 AM
                             [**2188-1-13**]  03:18 AM
                             [**2188-1-14**]  04:36 AM
   WBC
   7.3
   8.6
   8.8
   9.3
   8.8
   9.7
   11.6
   Hct
   27.1
   27.8
   26.0
   27.5
   29.2
   29.8
   28.6
   28.0
   Plt
   230
   243
   239
   [**Telephone/Fax (3) 12488**]
   368
   Cr
   2.0
   2.0
   2.1
   2.1
   2.3
   2.4
   2.3
   2.2
   2.1
   Glucose
   288
   292
   217
   93
   138
   173
   126
   Other labs: PT / PTT / INR:12.0/28.9/1.0, ALT / AST:24/27, Alk Phos / T
   Bili:93/0.3, Differential-Neuts:79.9 %, Lymph:15.0 %, Mono:3.7 %,
   Eos:1.1 %, Lactic Acid:1.0 mmol/L, LDH:161 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M with chronic respiratory failure with trach/PEG admitted from
   rehab s/p tracheostomy placement with R sided PTX and difficulty with
   ventilation now s/p chest tube placement and removal, currently
   awaiting LTAC bed.
   # Respiratory distress: s/p tracheostomy replacement at rehab. Bronch
   showed posterior invagination of tracheal tissue blocking trach which
   improved with increased PEEP. IP advanced trach  but did not offer
   stent based on other comorbidities.. Trach was changed to [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 12
   cm which should move around less than the previous model. Right sided
   PTX improved and CXR stable since CT removed. [**Month (only) 51**] be spontaneous vs.
   due to vigorous ventilation at rehab vs. right pneumothorax in the
   setting of recent bronchoscopy with tracheostomy change.
   -- Continue pressure support trial, attempt to wean PEEP as tolerated (
   [**1-12**]/day)
   -- Keep sedatives off if possible
   -- attempt slightly reducing pressure support
   # Family dynamics: family reporting hospital to DPH. Family has not
   been able to pay [**Doctor First Name **] at [**Hospital1 **]. Family has been touching patient
   causing worsening respiratory status and dictating care in terms of
   PEEP and long acting insulins.
   -- Ethics consult requested and plan for Family meeting next week if
   patient is still here but otherwise to go to rehab today
   # Hypernatremia: resolved; cont free water flush at 200 cc q4
   # Inguinal hernia: Noted large scrotum on exam.
   - foley, continuous bladder irrigation
   # DM: RISS with lantus 8u qhs per family
s request for change
   # CKD: Cr baseline 2.0.  stable
   - continue to monitor renal fx, renally dose meds, avoid nephrotoxins.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2188-1-14**] 06:00 AM 120 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2188-1-8**] 11:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: